US09211249B2
Tyrosine isopropyl ester.
HCl (120 g) was dissolved in water (1 L). Caffeine (100 g) and menthol (20 g) were added into the mixture and the mixture was stirred for a few minutes. The mixture was filled into either spray bottles or roll-on bottles.

reactant | HCl | 120 g | Cl | ClH
reactant | Caffeine | 100 g | N1(C)C(=O)N(C)C=2N=CN(C)C2C1=O | C8H10N4O2
reactant | menthol | 20 g | C1(CC(C(CC1)C(C)C)O)C | C10H20O
solvent | water | 1 L | O | H2O
product | Tyrosine isopropyl ester | C(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C12H17NO3
